US04640708
3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinoline-4-carboxaldehyde was prepared from 3-chloro-4-cyano-methyl-5,6,7,8-tetrahydroisoquinoline by reduction with diisobutylaluminium hydride following essentially the same procedure as that described in J. Org. chem., 1980, 45, 1354 for the reduction of 3-cyano-2-methoxy-6-methylpyridine. Pmr spectrum (CDCl3 ; δ in ppm): 1.79 (4H,m); 2.47 (3H,s); 2.59-3.18 (4H,m); 10.52 (1H,s).

reactant | 3-chloro-4-cyano-methyl-5,6,7,8-tetrahydroisoquinoline | ClC=1N=C(C=2CCCCC2C1C#N)C | C11H11ClN2
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-cyano-2-methoxy-6-methylpyridine | C(#N)C=1C(=NC(=CC1)C)OC | C8H8N2O
product | 3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinoline-4-carboxaldehyde | ClC=1N=C(C=2CCCCC2C1C=O)C | C11H12ClNO
